US08106043B2
tert-Butyl 2-(methyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)amino)acetate:
To a solution of tert-butyl 2-((2-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)(methyl)amino)acetate (850 mg, 2.52 mmol) in EtOH (25 mL) was added methyl thiophene-2-carbimidothioate hydroiodide (1.43 g, 5.04 mmol). The resulting suspension was stirred at room temperature for 17 hours (overnight). At this time, the suspension was diluted with 20 mL CH2Cl2 to give a dark yellow solution. Argon was then bubbled through this solution for 30 minutes. The solution was transferred to a separatory funnel containing saturated sodium bicarbonate solution (50 mL) and CH2Cl2 (100 mL) then extracted. After extraction, the organic layer was separated, dried (Na2SO4), filtered, and concentrated to give a dark residue. This residue was subjected to flash chromatography on silica gel using 2:98 MeOH:CH2Cl2 followed by 2.5:97.5 (2M NH3 in MeOH):CH2Cl2 to give a yellow-green residue (420 mg, 37.3%). Some impure fractions were collected (˜340 mg). 1H-NMR (CDCl3) δ 7.43-7.35 (m, 2H), 7.06 (pseudo t, J=4.8 Hz, 1H), 7.71 (brd, J=8.1 Hz, 2H), 6.65 (dd, J=1.8, 8.4 Hz, 1H), 4.91 (brs, 2H), 3.66-3.58 (m, 2H), 3.43 (t, J=7.2 Hz, 2H), 3.21 (s, 2H), 3.07-2.99 (m, 2H), 2.74 (t, J=7.5 Hz, 2H), 2.45 (s, 3H), 1.47 (s, 9H); ESI-MS (m/z, %): 447 (MH+, 100), 391 (50); HPLC purity: 99.7% a/a.

reactant | tert-butyl 2-((2-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)(methyl)amino)acetate | 2.52 mmol, 850 mg | NC=1C=CC2=C(SCCN2CCN(CC(=O)OC(C)(C)C)C)C1 | C17H27N3O2S
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 5.04 mmol, 1.43 g | I.S1C(=CC=C1)C(=N)SC
reactant | NH3 | 2M | N | H3N
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | tert-Butyl 2-(methyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)amino)acetate | 420 mg, 37.3% | CN(CC(=O)OC(C)(C)C)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C22H30N4O2S2
